US06197729B1
d) 4-(1-hydroxy-2,2,2-trifluoroethyl)cyclohexanol
At 50° C. and a hydrogen pressure of 150 bar, 44.1 g of 4-(1-hydroxy-2,2,2-trifluoroethyl)phenol were hydrogenated in the presence of 3 g of rhodium (5% on carbon) in 500 ml of isopropanol. The catalyst was filtered off and the mixture was concentrated, to give the title product as a colourless oil.

reactant | hydrogen | [H][H] | H2
reactant | 4-(1-hydroxy-2,2,2-trifluoroethyl)phenol | 44.1 g | OC(C(F)(F)F)C1=CC=C(C=C1)O | C8H7F3O2
solvent | isopropanol | 500 ml | C(C)(C)O | C3H8O
catalyst | rhodium | 3 g | [Rh] | Rh
product | 4-(1-hydroxy-2,2,2-trifluoroethyl)cyclohexanol | OC(C(F)(F)F)C1CCC(CC1)O | C8H13F3O2
